US05650428
The procedure described in Example 65 was repeated, except that (RS)-2-(4-chlorobenzenesulfonylamino)-3-hydroxy-N-(6-methoxycarbonylhexyl)propanamide (502 mg) was reacted with mesyl chloride to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-3-methanesulfonyloxy-N-(6-methoxycarbonylhexyl)propanamide (453.1 mg).

reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-3-hydroxy-N-(6-methoxycarbonylhexyl)propanamide | 502 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NCCCCCCC(=O)OC)CO | C17H25ClN2O6S
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
product | (RS)-2-(4-chlorobenzenesulfonylamino)-3-methanesulfonyloxy-N-(6-methoxycarbonylhexyl)propanamide | 453.1 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NCCCCCCC(=O)OC)COS(=O)(=O)C | C18H27ClN2O8S2
